US07932272B2
2-Amino-6-methoxy-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
2,5-Diamino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide described in Preparation Example A+-10 (27 mg, 59 μmol), sodium nitrite (4.1 mg, 59 μmol) and sulfuric acid (several drops) were dissolved in methanol (5 mL), and the solution was stirred for 30 minutes under reflux. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution at 0° C., which was then extracted with ethyl acetate, and the organic layer was washed with brine. The solvent was evaporated in vacuo, the residue was purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), then, further by NH silica gel column chromatography (hexane:ethyl acetate=5:1), and the title compound (0.7 mg) was obtained as a white solid.

reactant | 2,5-Diamino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=C(C=N1)N | C17H16N4O2S
reactant | sodium nitrite | 59 μmol, 4.1 mg | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | sulfuric acid | several drops | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 5 mL | CO | CH4O
product | 2-Amino-6-methoxy-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.7 mg | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)OC | C18H17N3O3S
